* D:\Mathias Lampert\Mathias Schule_Studium\FH\ELITE-Semester\EIT_3\Schaltungstechnik\Labor\Labor9\Draft2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 N007 V
R1 N002 N001 220
R2 N007 N002 100
R3 N003 N002 680
V2 N004 N008 V
R4 N005 N004 220
R5 N008 N005 100
R6 N006 N005 680
V3 N011 N015 V
R7 N010 N009 220
R8 N015 N010 100
R9 N011 N010 680
V4 N014 N016 V
R10 N013 N012 220
R11 N016 N013 100
R12 N014 N013 680
* Z11 = U1/I1 when I2=0
* Z12 = U1/I2 when I1=0
* Z21 = U2/I1 when I2=0
* Z22 = U2/I2 when I1=0
.backanno
.end
