* D:\Mathias Lampert\Mathias Schule_Studium\FH\ELITE-Semester\EIT_3\Schaltungstechnik\Labor\Labor9\Draft2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 in1 0 AC 1
R1 N001 in1 220
R2 0 N001 100
R3 out1 N001 680
V2 out2 0 AC 1
R4 N002 in2 220
R5 0 N002 100
R6 out2 N002 680
V3 out4 0 AC 1
R7 N003 in3 220
R8 0 N003 100
R9 out3 N003 680
V4 in3 0 AC 1
R10 N004 in4 220
R11 0 N004 100
R12 out4 N004 680
* Z11 = U1/I1 when I2=0
* Z12 = U1/I2 when I1=0
* Z21 = U2/I1 when I2=0
* Z22 = U2/I2 when I1=0
.meas AC Z11_mess PARAM 1*mag(V(in1)/I(V1))
.meas AC Z21_mess PARAM 1*mag(V(out1)/I(V1))
.meas AC Z12_mess PARAM 1*mag(V(in1)/I(V2))
.meas AC Z22_mess PARAM 1*mag(V(out1)/I(V2))
* .tran 1
.ac dec 1111 0.00001 1000000
.backanno
.end
